US04382939
1,2,3,4-Tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from 3-methoxyphenol (16 g, 0.126 moles) and methyl 4-oxo-3-piperidinecarboxylate hydrochloride (25 g, 0.129 moles). Recrystallization from ethanol gave the product (10.43 g), mp 179°-183° C.

reactant | 3-methoxyphenol | 0.126 moles, 16 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 0.129 moles, 25 g | Cl.O=C1C(CNCC1)C(=O)OC
product | 1,2,3,4-Tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 10.43 g | COC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO3
